US06057369
Methyl 3-hydroxy-2,2-dimethyl-7-phenylheptanoate (10 g, 38 mmol) and triethylamine (6.3 mL, 45 mmol) are dissolved in CH2Cl2 (50 mL) and cooled to 0° C. Methanesulfonyl chloride (3.2 mL, 42 mmol) is added and the reaction is allowed to stir at room temperature for 1 hour. The reaction mixture is then washed with NaHCO3 (2×40 mL), 1 N HCl (40 mL) and brine (40 mL). The solution is dried over MgSO4 and the solvent removed in vacuo to yield methyl 3-methanesulfonyloxy-2,2-dimethyl-7-phenylheptanoate (11.2 g, 86%). 1H NMR (300 MHz, CDCl3) δ 7.30-7.25 (m, 2H), 7.19-7.15 (m, 3H), 4.99 (dd, J=9.2, 2.0 Hz,1H), 3.69 (s, 3H), 2.93 (s, 3H), 2.62 (t, J=7.4 Hz, 2H), 1.71-1.38 (m, 6H), 1.27 (s, 3H), 1.18 (s, 3H); MS (FAB) m/e 343 (M+H)+.

reactant | Methyl 3-hydroxy-2,2-dimethyl-7-phenylheptanoate | 38 mmol, 10 g | OC(C(C(=O)OC)(C)C)CCCCC1=CC=CC=C1 | C16H24O3
reactant | triethylamine | 45 mmol, 6.3 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 42 mmol, 3.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-methanesulfonyloxy-2,2-dimethyl-7-phenylheptanoate | 11.2 g, 86% | CS(=O)(=O)OC(C(C(=O)OC)(C)C)CCCCC1=CC=CC=C1 | C17H26O5S
